US08859574B2
To a solution of 2-amino-1-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)-2-methylpropan-1-one (6 mg, 0.012 mmol) in acetone (0.5 mL) was added K2CO3 (11 mg, 0.079 mmol). The mixture was stirred at room temperature for 10 min. before the addition of EtI (6 mg, 0.038 mmol). The resulting mixture was then stirred at room temperature for 14 h before it was treated with saturated aqueous NH4Cl (1 mL) and extracted with EtOAc (3×2 mL). The organic layers were combined, concentrated, and the residue was purified by preparative thin layer chromatography (silica gel, 8% MeOH/DCM/NH3) followed by further purification with preparative RP-HPLC to provide 1-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)-2-(ethylamino)-2-methylpropan-1-one; ESMS m/z 525.3 (M+H+).

reactant | 2-amino-1-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)-2-methylpropan-1-one | 0.012 mmol, 6 mg | NC(C(=O)N1CCC(CC1)C1=C(C=C(C(=C1)C)NC1=NC=C(C(=N1)NC1=NNC(=C1)C)Cl)C)(C)C | C25H33ClN8O
reactant | K2CO3 | 0.079 mmol, 11 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | EtI | 0.038 mmol, 6 mg | C(C)I | C2H5I
reactant | NH4Cl | 1 mL | [NH4+].[Cl-]
solvent | acetone | 0.5 mL | CC(=O)C | C3H6O
product | 1-(4-(4-(5-chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-2,5-dimethylphenyl)piperidin-1-yl)-2-(ethylamino)-2-methylpropan-1-one | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1C)C1CCN(CC1)C(C(C)(C)NCC)=O)C)NC1=NNC(=C1)C | C27H37ClN8O
